US08791161B2
4-Chloro-N-[5-chloro-2-(3-oxo-cyclopentylsulfanyl)-phenyl]-3-trifluoromethyl-benzenesulfonamide
To a solution of N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis[4-chloro-3-(trifluoromethyl)benzenesulfonamide] Intermediate 5 (105 mg, 0.13 mmol) in CH2Cl2 (2 ml), MeOH (0.5 ml), and H2O (0.25 ml) was added polymer-bound triphenylphosphine (˜3 mmol/g triphenylphosphine loading, 87 mg, 0.26 mmol), cyclopent-2-enone (33 μl, 0.39 mmol), and PTSA (catalytic amount). The reaction was stirred at room temperature for 4 h and was directly purified by column chromatography on silica gel (0→100% ethyl acetate in hexane) to yield the title compound as an off-white solid (133 mg, 100%).

reactant | N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis[4-chloro-3-(trifluoromethyl)benzenesulfonamide] | ClC=1C=CC(=C(C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)SSC1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C26H14Cl4F6N2O4S4
reactant | triphenylphosphine | 0.26 mmol, 87 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclopent-2-enone | 0.39 mmol, 33 μl | C1(C=CCC1)=O | C5H6O
reactant | PTSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 0.5 ml | CO | CH4O
solvent | H2O | 0.25 ml | O | H2O
product | 4-Chloro-N-[5-chloro-2-(3-oxo-cyclopentylsulfanyl)-phenyl]-3-trifluoromethyl-benzenesulfonamide | 133 mg, 100% | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)Cl)SC1CC(CC1)=O)C(F)(F)F | C18H14Cl2F3NO3S2
